US07618990B2
A 1M solution of oxalyl chloride in methylene chloride (20 mL, 20 mmol) was cooled to −78° C., dimethyl sulfoxide was added dropwise (1.77 mL, 25 mmol) and the mixture was stirred. This solution (5.5 mL, 5.5 mmol of activated dimethyl sulfoxide) was added via syringe to a solution of 4-{2-[(2-hydroxy-1,1-dimethylethyl)amino]-1,3-thiazol-4-yl}benzonitrile (1.5 g, 5.5 mmol), prepared in step 1 of Example 82, in 60 mL of 5:1 methylene chloride:tetrahydrofuran that had been cooled to −78° C. The reaction was stirred for 30 min, triethylamine (1.6 mL, 11 mmol) was added, the mixture was stirred for 20 min and then allowed to warm to 25° C. The mixture was then diluted with methylene chloride and washed with H2O, brine, dried over anhydrous MgSO4, filtered and concentrated. Flash chromatography (10%-20% acetone in hexane) afforded 4-{2-[(1,1-dimethyl-2-oxoethyl)amino]-1,3-thiazol-4-yl}benzonitrile (0.91 g, 61%) of as a white solid. HRMS: calcd for C14H13N3OS+H+, 272.08521; found (ESI, [M+H]+), 272.0853; Analytical HPLC: HPLC purity 100% at 210-370 nm, 9.1 min; 100% at 328 nm, 9.1 min; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN+MeOH) for 10 min, hold 4 min.

reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
reactant | dimethyl sulfoxide | 5.5 mmol, 5.5 mL | CS(=O)C | C2H6OS
reactant | 4-{2-[(2-hydroxy-1,1-dimethylethyl)amino]-1,3-thiazol-4-yl}benzonitrile | 5.5 mmol, 1.5 g | OCC(C)(C)NC=1SC=C(N1)C1=CC=C(C#N)C=C1 | C14H15N3OS
reactant | triethylamine | 11 mmol, 1.6 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mmol, 20 mL | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-{2-[(1,1-dimethyl-2-oxoethyl)amino]-1,3-thiazol-4-yl}benzonitrile | 0.91 g, 61% | CC(C=O)(C)NC=1SC=C(N1)C1=CC=C(C#N)C=C1 | C14H13N3OS
